US04933355
Ethyl 2-cyclopropylaminothiazole-4-carboxylate
The reaction described in Preparation 26 was repeated, except that a mixture comprising 2.28 g of cyclopropylamine, 5.0 g of ethyl 2-bromothiazole-4-carboxylate and 20 ml of toluene was heated at 100°-110 ° C. for 16 hours in a sealed tube, giving the title compound as a pale yellow oil.

reactant | cyclopropylamine | 2.28 g | C1(CC1)N | C3H7N
reactant | ethyl 2-bromothiazole-4-carboxylate | 5.0 g | BrC=1SC=C(N1)C(=O)OCC | C6H6BrNO2S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-cyclopropylaminothiazole-4-carboxylate | C1(CC1)NC=1SC=C(N1)C(=O)OCC | C9H12N2O2S
